US04985444
A mixture of 3-[1-(2-methoxycarbonylethyl)-3-cyano-2-oxo-1,2-dihydropyridin-5-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.46 g) and potassium carbonate (0.92 g) in 80% aqueous ethanol (4.6 ml) was stirred for 6 hours at 80° C. The mixture was acidified with 5% hydrochloric acid (pH≈2). The resultant precipitates were collected by filtration, washed with water (10 ml), and subjected to a column chromatography on silica gel (10 g) with a mixture of chloroform, methanol and acetic acid (40:4:1). The fractions containing the object compound were combined and evaporated in vacuo to give 3-[1-(2-carboxyethyl)-3-cyano-2-oxo-1,2-dihydropyridin-5-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.40 g).

reactant | 3-[1-(2-methoxycarbonylethyl)-3-cyano-2-oxo-1,2-dihydropyridin-5-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.46 g | COC(=O)CCN1C(C(=CC(=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C#N)=O | C23H18N4O3
reactant | potassium carbonate | 0.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | pH≈2 | Cl | ClH
solvent | ethanol | 4.6 ml | C(C)O | C2H6O
product | 3-[1-(2-carboxyethyl)-3-cyano-2-oxo-1,2-dihydropyridin-5-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.40 g | C(=O)(O)CCN1C(C(=CC(=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C#N)=O | C22H16N4O3
